US05439925
(b) 5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl -2-naphthylacetyl chloride
6.6 g (26.8 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetic acid and 20 ml of thionyl chloride are heated to reflux until gaseous evolution has ceased. The mixture is evaporated to dryness and 7.1 g (100%) of the crude acid chloride are obtained, which product is used for the next step of the synthesis without further treatment.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetic acid | 26.8 mmol, 6.6 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC(=O)O)C | C16H22O2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl -2-naphthylacetyl chloride | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC(=O)Cl)C | C16H21ClO
